US06548493B1
(7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-10-propyl-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382as a yellow oil (23 mg, 69%) from (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.077 mmol) and 1-bromopropane (20 mg, 0.15 mmol). 1H NMR (CDCl3, 300 MHz) δ0.98 (t, J=7.3 Hz, 3H), 1.78-1.92 (br, 2H), 2.11-2.25 (m, 5H), 2.28-2.42 (m, 1H), 2.53-2.80 (m, 5H), 3.05-3.25 (br, 2H), 3.31 (dt, J=10.2, 3.6 Hz, 1H), 3.37-3.45 (br, 1H), 3.60-3.72 (br, 1H), 3.89 (s, 3H), 6.85 (s, 1H), 6.87 (s, 1H), 7.05 (dd, J=8.7, 2.6 Hz, 1H), 7.21-7.27 (m, 2H) ppm. MS (CI, NH3): 431.2 (base, M+H).

reactant | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.077 mmol, 30 mg | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1)C(F)(F)F | C22H23F3N2O
reactant | 1-bromopropane | 0.15 mmol, 20 mg | BrCCC | C3H7Br
reactant | NH3 | N | H3N
product | (7aS,11aR)-2-[4-methoxy-2-(trifluoromethyl)phenyl]-10-propyl-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCN(C1)CCC)C(F)(F)F | C25H29F3N2O
